US04556665
4-Ethyl-1,3-dihydro-5-[4-[2-(3-methylbutyl)imidazol-1yl]benzoyl]-2H-imidazol-2-one
In a manner similar to that described in Example I react 4-[2-(3-methylbutyl)-1H-imidazol-1-yl]benzoic acid and 5-ethyl-2,3-dihydro-2-oxo-1H-imidazole-4-carboxylic acid to produce the title compound which can be purified by chromatography of the crude base on silica gel.

reactant | 4-[2-(3-methylbutyl)-1H-imidazol-1-yl]benzoic acid | CC(CCC=1N(C=CN1)C1=CC=C(C(=O)O)C=C1)C | C15H18N2O2
reactant | 5-ethyl-2,3-dihydro-2-oxo-1H-imidazole-4-carboxylic acid | C(C)C1=C(NC(N1)=O)C(=O)O | C6H8N2O3
product | 4-Ethyl-1,3-dihydro-5-[4-[2-(3-methylbutyl)imidazol-1yl]benzoyl]-2H-imidazol-2-one | C(C)C=1NC(NC1C(C1=CC=C(C=C1)N1C(=NC=C1)CCC(C)C)=O)=O | C20H24N4O2
